US04761419
Step 7--Preparation of (E)-3-[6-chloro-4-(4-fluorophenyl)-2-methyl-3-quinolyl]propenal
A solution of oxalyl chloride (2.28 mL, 1.3 equivalents) in 100 mL of dichloromethane was cooled to -78° C. under a nitrogen atmosphere. A solution of dimethylsulfoxide (3.67 mL, 2.6 equivalents) in 75 mL of dichloromethane was added dropwise with stirring. Five minutes after addition was complete, a solution of (E)-3-[6-chloro-4-(4-fluorophenyl)-2-methyl-3-quinolyl]-propenol (6.59 g) in 75 mL of dichloromethane was added dropwise. This solution was stirred at -78° C. for three-quarters of an hour and then 1mL (5.0 equivalents) of triethylamine was added.

reactant | oxalyl chloride | 2.28 mL, 1.3 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 3.67 mL, 2.6 equivalents | CS(=O)C | C2H6OS
reactant | (E)-3-[6-chloro-4-(4-fluorophenyl)-2-methyl-3-quinolyl]-propenol | 6.59 g | ClC=1C=C2C(=C(C(=NC2=CC1)C)C/C=C/O)C1=CC=C(C=C1)F | C19H15ClFNO
reactant | triethylamine | 1mL, 5.0 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (E)-3-[6-chloro-4-(4-fluorophenyl)-2-methyl-3-quinolyl]propenal | ClC=1C=C2C(=C(C(=NC2=CC1)C)/C=C/C=O)C1=CC=C(C=C1)F | C19H13ClFNO
